US08754115B2
Step A: Preparation of 5-(2-chloro-4-fluorophenyl)-1,3-dimethyl-4-nitro-1H-pyrazole
A mixture of 5-chloro-1,3-dimethyl-4-nitro-1H-pyrazole (2.50 g, 14.3 mmol), 2-chloro-4-fluorophenylboronic acid (2.98 g, 17.2 mmol), cesium carbonate (5.58 g, 17.2 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloro-methane complex (1:1) (1.16 g, 1.43 mmol) in dioxane (50 mL) was heated at 100° C. for approximately 2.5 days. After cooling to room temperature, the reaction mixture was filtered through a pad of Celite® (diatomaceous earth) on a sintered glass frit funnel and the filtrate was concentrated under reduced pressure. The resulting material was dissolved in ethyl acetate and filtered through a plug of silica on a sintered glass frit funnel and the filtrate was concentrated under reduced pressure. The resulting material was purified by silica gel column chromatography (5 to 40% gradient of ethyl acetate in hexanes as eluant) to provide the title compound (0.32 g).

reactant | 5-chloro-1,3-dimethyl-4-nitro-1H-pyrazole | 14.3 mmol, 2.50 g | ClC1=C(C(=NN1C)C)[N+](=O)[O-] | C5H6ClN3O2
reactant | 2-chloro-4-fluorophenylboronic acid | 17.2 mmol, 2.98 g | ClC1=C(C=CC(=C1)F)B(O)O | C6H5BClFO2
reactant | cesium carbonate | 17.2 mmol, 5.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 5-(2-chloro-4-fluorophenyl)-1,3-dimethyl-4-nitro-1H-pyrazole | 0.32 g | ClC1=C(C=CC(=C1)F)C1=C(C(=NN1C)C)[N+](=O)[O-] | C11H9ClFN3O2
